US07855290B2
N-[4-({2-[({4-[3-(Dimethylamino)azetidin-1-yl]piperidin-1-yl}carbonyl)amino]pyridin-4-yl}oxy)-2-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide hydrochloride
N-[4-({2-[({4-[3-(Dimethylamino)azetidin-1-yl]piperidin-1-yl}carbonyl)amino]pyridin-4-yl}oxy)-2-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (31.7 mg) was suspended in acetone (0.317 ml). To this was added a 5M hydrochloric acid (0.010 ml) and water (0.0059 ml) at room temperature, followed by stirring for 5 hr. After adding of acetone (0.317 ml), insoluble matter was collected by filtration and washed with acetone (0.159 ml, twice). This was dried under aeration at room temperature, then hot air-dried at 60° C. to provide the titled compound as white powder (32.1 mg, 96%).

reactant | N-[4-({2-[({4-[3-(Dimethylamino)azetidin-1-yl]piperidin-1-yl}carbonyl)amino]pyridin-4-yl}oxy)-2-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 31.7 mg | CN(C1CN(C1)C1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F)C | C33H37F2N7O4
reactant | hydrochloric acid | 5M, 0.010 ml | Cl | ClH
reactant | water | 0.0059 ml | O | H2O
solvent | acetone | 0.317 ml | CC(=O)C | C3H6O
solvent | acetone | 0.317 ml | CC(=O)C | C3H6O
product | N-[4-({2-[({4-[3-(Dimethylamino)azetidin-1-yl]piperidin-1-yl}carbonyl)amino]pyridin-4-yl}oxy)-2-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide hydrochloride | 32.1 mg, 96% | Cl.CN(C1CN(C1)C1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F)C | InChI=1S/C33H37F2N7O4.ClH/c1-40(2)24-19-42(20-24)23-10-15-41(16-11-23)32(45)39-29-18-26(9-14-36-29)46-25-7-8-28(27(35)17-25)38-31(44)33(12-13-33)30(43)37-22-5-3-21(34)4-6-22;/h3-9,14,17-18,23-24H,10-13,15-16,19-20H2,1-2H3,(H,37,43)(H,38,44)(H,36,39,45);1H
